US07557114B2
(a) 5-Chloro-6-(tetrahydro-pyran-4-yloxy)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester
Prepared in analogy to Example A6(a) from 5-chloro-6-iodo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester (Example A3(c)) and tetrahydro-4H-pyran-4-ol. Off-white solid. MS (m/e): 300.1 ([{37Cl}M+H—Me2C═CH2]+, 36%), 298.3 ([{35Cl}M+H-Me2C═CH2]+, 100%).

reactant | 5-chloro-6-iodo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC(=C(C=C2C1)Cl)I | C13H15ClINO2
reactant | tetrahydro-4H-pyran-4-ol | O1CCC(CC1)O | C5H10O2
product | 5-Chloro-6-(tetrahydro-pyran-4-yloxy)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC(=C(C=C2C1)Cl)OC1CCOCC1 | C18H24ClNO4
